US07786116B2
Step A: [1-Cyano-2-(tetrahydro-pyran-4-yl)-hex-5-enyl]-phosphonic acid diethyl ester
In a flask, Mg (5.7 g) was placed in THF (50 mL) with an iodine chip. The reaction mixture was vigorously stirred and heated slightly, as 4-bromobutene (25 mL) was added. After consumption of Mg metal, the resulting solution was cannulated into a flask containing a mixture of [1-cyano-2-(tetrahydro-pyran-4-yl)-vinyl]-phosphonic acid diethyl ester (21.78 g, 79.7 mmol), prepared as described in Example 1 Step D above, and CuI (0.3 g) with THF (30 mL). The resulting mixture was stirred for three hours. Saturated aqueous NH4Cl solution and ethyl acetate were then added. The organic layer was separated and dried with MgSO4, filtered, and evaporated in vacuo to yield an oil.

reactant | iodine | II | I2
reactant | 4-bromobutene | 25 mL | BrCCC=C | C4H7Br
reactant | [1-cyano-2-(tetrahydro-pyran-4-yl)-vinyl]-phosphonic acid diethyl ester | 79.7 mmol, 21.78 g | C(C)OP(OCC)(=O)C(=CC1CCOCC1)C#N | C12H20NO4P
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.3 g | [Cu]I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1-Cyano-2-(tetrahydro-pyran-4-yl)-hex-5-enyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(C(CCC=C)C1CCOCC1)C#N | C16H28NO4P
